US05958944
Benzyloxycarbonyl chloride (750 mg) was dropwise added to an aqueous solution (10 ml) of (R)-4-(1-aminoethyl)-3-chlorobenzoic acid hydrochloride (690 mg) and sodium hydroxide (410 mg) at room temperature, and the mixture was stirred for 3 hours. After the reaction, conc. hydrochloric acid was added to the reaction mixture to make the same acidic, and the mixture was extracted with chloroform. The extract was dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=30:1) to give 680 mg of (R)-4-(1-benzyloxycarbonylaminoethyl)-3-chlorobenzoic acid.

reactant | Benzyloxycarbonyl chloride | 750 mg | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 410 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | (R)-4-(1-aminoethyl)-3-chlorobenzoic acid hydrochloride | 10 ml, 690 mg | Cl.N[C@H](C)C1=C(C=C(C(=O)O)C=C1)Cl
product | (R)-4-(1-benzyloxycarbonylaminoethyl)-3-chlorobenzoic acid | 680 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C1=C(C=C(C(=O)O)C=C1)Cl | C17H16ClNO4
